US08003662B2
Step B: Preparation of 1-(3-fluoro-4-(2-propylthieno[3,2-b]pyridin-7-yloxy)phenyl)-3-(2-phenylacetyl)thiourea:
A mixture of 3-fluoro-4-(2-propylthieno[3,2-b]pyridin-7-yloxy)benzenamine (8 mg, 0.03 mmol) and 2-phenylethanoyl isothiocyanate (9 mg, 0.05 mmol; prepared according to J. Org. Chem. 1964, 29, 1115-1119) in 1:1 toluene/ethanol (0.5 mL) were stirred at room temperature for 2 hours. The reaction mixture was purified by preparative TLC (5% MeOH/EtOAc). The product was obtained as a waxy solid (8 mg, 58%). 1H NMR (400 MHz, CDCl3) δ 12.49 (s, 1H), 8.57 (s, 1H), 8.45 (m, 1H), 7.94 (m, 1H), 7.44 (m, 4H), 7.32 (m, 2H), 7.25 (m, 2H, overlaps chloroform), 6.48 (m, 1H), 3.76 (s, 2H), 2.93 (m, 2H), 1.81 (m, 2H), 1.04 (m, 3H). LRMS (ESI neg) m/e 478 (M−1).

reactant | 3-fluoro-4-(2-propylthieno[3,2-b]pyridin-7-yloxy)benzenamine | 0.03 mmol, 8 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)CCC)N | C16H15FN2OS
reactant | 2-phenylethanoyl isothiocyanate | 0.05 mmol, 9 mg | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
solvent | toluene ethanol | 0.5 mL | C1(=CC=CC=C1)C.C(C)O
product | 1-(3-fluoro-4-(2-propylthieno[3,2-b]pyridin-7-yloxy)phenyl)-3-(2-phenylacetyl)thiourea | 8 mg, 58% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)CCC)NC(=S)NC(CC2=CC=CC=C2)=O | C25H22FN3O2S2
